US07737275B2
2-Chloro-5-[3,6-dihydro-3-methyl-4-(trifluoromethyl)-6-oxo-2-thioxo-1-(2H)-pyrimidinyl]-4-fluoro-N-[[(1-methylethyl)propylamino]sulfonyl]benzamide
Under nitrogen, a mixture of 30 ml of N,N-dimethylformamide and 50 ml of n-hexane was heated to reflux with stirring for 1 hour and the hexane was subsequently distilled off at an internal temperature of 80-90° C. The mixture was allowed to cool to 30° C. and 0.75 g (3.828 mmol) of ethyl 3-methylamino-4,4,4-trifluorocrotonate was added with stirring, the reaction mixture was cooled to −20° C. and 0.2 g (7.92 mmol) of 95% sodium hydride was added in 3 portions with stirring to form a yellow precipitate. The mixture was stirred at −15° C. for a further 15 minutes and then 1.5 9 (3.828 mmol) of N-(2-chloro-4-fluoro-5-isothiocyanatobenzoyl)-N′-allyl-(1-propyl)sulfamide were added at −15° C. to the mixture. After stirring,for 15 minutes, a brown solution formed. Stirring was then continued at −15° C. for 1 hour and than at 22° C. for 8 hours. The reaction mixture was poured with stirring into 100 ml of 1 N hydrochloric acid and the aqueous mixture was extracted three times with methyl tert-butyl ether. The combined organic phases were reextracted with 1 N hydrochloric acid, then the organic phase was washed with water and the organic phase was dried over magnesium sulfate. After the drying agent had been filtered off, the filtrate was concentrated under reduced pressure. The residue was purified by flash chromatography on silica gel (3×20 cm column, eluent: dichloromethane) and, after the eluate had been concentrated under reduced pressure, 0.65 g (31.3% of theory) of the title compound having a melting point of 74-75° C. was obtained. According to the 1H NMR spectrum, a rotamer mixture was present in a ratio of 7:3. According to HPLC analysis, the product peaks for these were at 5.3 and 5.48 minutes having 70 and 25 area percent respectively.

reactant | ethyl 3-methylamino-4,4,4-trifluorocrotonate | 3.828 mmol, 0.75 g | CN\C(=C/C(=O)OCC)\C(F)(F)F | C7H10F3NO2
reactant | sodium hydride | 7.92 mmol, 0.2 g | [H-].[Na+]
reactant | N-(2-chloro-4-fluoro-5-isothiocyanatobenzoyl)-N′-allyl-(1-propyl)sulfamide | ClC1=C(C(=O)N(S(=O)(=O)NCC=C)CCC)C=C(C(=C1)F)N=C=S | C14H15ClFN3O3S2
reactant | hydrochloric acid | 1 N, 100 ml | Cl | ClH
reactant | n-hexane | 50 ml | CCCCCC | C6H14
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 2-Chloro-5-[3,6-dihydro-3-methyl-4-(trifluoromethyl)-6-oxo-2-thioxo-1-(2H)-pyrimidinyl]-4-fluoro-N-[[(1-methylethyl)propylamino]sulfonyl]benzamide | ClC1=C(C(=O)NS(=O)(=O)N(CCC)C(C)C)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=S | C19H21ClF4N4O4S2
